US04282365
Step B: 6,11-Dihydro-11-hydroxydibenz[b,e]oxepin-2-carboxylic Acid
Dissolve 900 mg. of methyl 6,11-dihydro-11-hydroxydibenz[b,e]oxepin-2-carboxylate in 20 cc. of tetrahydrofuran. Add 20 cc. 1 N aqueous sodium hydroxide. Stir at room temperature for 48 hours. Dilute with water and extract with ether. Acidify the aqueous fraction with hydrochloric acid and extract with ether. Evaporate the organic phase to obtain the title product (m.p. 275° C. dec.).

reactant | methyl 6,11-dihydro-11-hydroxydibenz[b,e]oxepin-2-carboxylate | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C16H14O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | O | H2O
product | 6,11-Dihydro-11-hydroxydibenz[b,e]oxepin-2-carboxylic Acid | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | C15H12O4
